US04877904
60 g of 3-(3-oxobutyl)-2,4,4-trimethyl-cyclohexanone (product of the catalytic hydrogenation of 4-ketoionone with palladium-carbon in ethyl acetate at room temperature and normal pressure, see H. Jwamuro et al., 23rd Proceedings of the Chemical Society of Japan, 86 [1979]) are dissolved in 500 ml of diethyl ether and at the reflux temperature of the solution there are immediately added dropwise while stirring 25 ml of 80% sulphuric acid. A further 25 ml of 80% sulphuric acid are added dropwise four times after a reaction time of 1 hour in each case. 30 minutes after the last addition of the brownish reaction mmixture is poured onto ice, diluted with water to about 1.5 l, the emulsion is broken with ammonium sulphate and the aqueous phase is separated. After washing with sodium bicarbonate solution and water the organic phase is dried as usual and evaporated under a vacuum. After flat distillation at 55°-60° C./0.05 Torr there are obtained 46 g of 1,4,4,7a-tetramethyl-3a,4,5,7a-tetrahydro-7(6H)-ind-1-enone.

reactant | 3-(3-oxobutyl)-2,4,4-trimethyl-cyclohexanone | 60 g | O=C(CCC1C(C(CCC1(C)C)=O)C)C | C13H22O2
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium sulphate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
catalyst | palladium-carbon | [C].[Pd]
product | 1,4,4,7a-tetramethyl-3a,4,5,7a-tetrahydro-7(6H)-ind-1-enone | 46 g | CC1=CCC2C(CCC(C12C)=O)(C)C | C13H20O
